US09079889B2
Synthesis of tert-butyl (3R,4R,5S)-1-(3-aminopyridin-4-yl)-4-(tert-butyldimethylsilyloxy)-5-methylpiperidin-3-ylcarbamate
A solution of tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.) in MeOH (0.05 M) was degassed with nitrogen for 20 min. 10% Pd/C (0.2 equiv.) was added to the mixture and the solution was stirred under a hydrogen balloon for 3 hours. The reaction was filtered and the filtrate was concentrated under reduced pressure to give tert-butyl (3R,4R,5S)-1-(3-aminopyridin-4-yl)-4-(tert-butyldimethylsilyloxy)-5-methylpiperidin-3-ylcarbamate as the desired product in 94% yield. LC/MS=437.4 (M+H), Rt=1.08 min. 1H-NMR (300 MHz, CDCl3): δ 8.01 (s, 1H), 7.95 (d, J=6.0 Hz, 1H), 6.76 (d, J=6.0 Hz, 1H), 4.44 (br s, 1H), 3.74 (br s, 2H), 3.59-3.55 (m, 1H), 3.25-3.13 (m, 2H), 2.47-2.35 (m, 2H), 1.89 (br s, 2H), 1.44 (s, 9H), 1.04 (d, J=6.0, 3H), 0.92 (s, 9H), 0.13 (d, J=9.0, 6H).

reactant | tert-butyl (3R,4R,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CN(C[C@@H]1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C22H38N4O5Si
solvent | MeOH | 0.05 M | CO | CH4O
catalyst | Pd/C | 0.2 equiv. | [Pd] | Pd
product | tert-butyl (3R,4R,5S)-1-(3-aminopyridin-4-yl)-4-(tert-butyldimethylsilyloxy)-5-methylpiperidin-3-ylcarbamate | NC=1C=NC=CC1N1C[C@H]([C@@H]([C@H](C1)C)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C22H40N4O3Si
